*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 09:39:21 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "DFFSX1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  DFFSX1 CK D Q QN SN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 5.28573e-16
*|P (CK X 0 0.9420 2.5990)
*|I (MX64/M0#g MX64/M0 g X 0 0.4750 0.6075)
*|I (MX67/M0#g MX67/M0 g X 0 0.4750 3.0425)
*|S (CK#7 0.4750 2.4550)
*|S (CK#8 0.9050 2.4550)
*|S (CK#11 0.9235 2.4550)
*|S (CK#12 0.9235 2.5990)
C1 MX67/M0#g VSS 5.26576e-17
C2 MX64/M0#g VSS 4.79125e-17
C3 CK#12 VSS 1.59641e-16
C4 CK#11 VSS 1.2067e-16
C5 CK#8 VSS 6.95663e-17
C6 CK#7 VSS 7.81264e-17
Rg1 MX67/M0#g CK#7 169.942413 $W=0.15
Rg2 CK#7 MX64/M0#g 574.822449 $W=0.15
Rf3 CK#8 CK#7 47.376472 $W=0.17
Re4 CK#8 CK#11 152.001862 $W=1.24
Re5 CK#12 CK 0.001865 $W=1.24
Re6 CK#11 CK#12 0.069231 $W=0.26
*
*|NET D 4.65335e-16
*|P (D X 0 0.9320 1.0540)
*|I (MX63/M0#g MX63/M0 g X 0 0.9050 0.6075)
*|I (MM0#g MM0 g X 0 0.9050 3.0425)
*|S (D#7 0.9050 1.0950)
*|S (D#8 0.9200 1.0950)
C7 MM0#g VSS 4.78163e-17
C8 MX63/M0#g VSS 3.75756e-17
C9 D#7 VSS 1.06198e-16
C10 D VSS 2.73745e-16
Rg7 MM0#g D#7 606.955750 $W=0.15
Rg8 D#7 MX63/M0#g 137.809082 $W=0.15
Rf9 D#8 D#7 16.129412 $W=0.17
Re10 D D#8 152.019714 $W=0.26
*
*|NET Q 7.93059e-16
*|P (Q X 0 7.8320 1.8640)
*|I (MX56/M0#d MX56/M0 d X 0 7.9795 0.7750)
*|I (MX62/M0#d MX62/M0 d X 0 7.9795 2.7900)
*|S (Q#2 7.8400 2.7500)
*|S (Q#3 7.8400 0.8100)
C11 MX56/M0#d VSS 1.1639e-16
C12 Q#3 VSS 2.07762e-16
C13 Q#2 VSS 3.62783e-16
C14 Q VSS 1.06124e-16
Rf11 MX62/M0#d Q#2 5.616868 $W=0.83
Rf12 Q#3 MX56/M0#d 8.423712 $W=0.485
Re13 Q Q#3 76.503784 $W=0.26
Re14 Q Q#2 51.088047 $W=0.26
*
*|NET QN 5.69785e-16
*|P (QN X 0 8.7520 1.9190)
*|I (MX83/M0#d MX83/M0 d X 0 8.5605 0.7750)
*|I (MX55/M0#d MX55/M0 d X 0 8.5605 2.7900)
*|S (QN#2 8.7000 2.7500)
*|S (QN#3 8.7000 0.8100)
C15 MX83/M0#d VSS 8.38955e-17
C16 QN#3 VSS 1.56571e-16
C17 QN#2 VSS 2.53366e-16
C18 QN VSS 7.59529e-17
Rf15 MX55/M0#d QN#2 5.616868 $W=0.83
Rf16 QN#3 MX83/M0#d 8.423712 $W=0.485
Re17 QN QN#3 76.486404 $W=0.285
Re18 QN QN#2 51.031143 $W=0.285
*
*|NET SN 1.09762e-15
*|P (SN X 0 3.2270 1.8990)
*|I (MX84/M0#g MX84/M0 g X 0 3.5750 0.6075)
*|I (MX77/M0#g MX77/M0 g X 0 5.7250 0.6075)
*|I (MX81/M0#g MX81/M0 g X 0 5.7250 3.0425)
*|I (MX69/M0#g MX69/M0 g X 0 3.5750 3.0425)
*|S (SN#13 3.5150 2.1150)
*|S (SN#14 5.7850 2.1150)
*|S (SN#16 3.5150 2.1150)
*|S (SN#17 3.2200 2.1150)
C19 MX69/M0#g VSS 4.59092e-17
C20 MX81/M0#g VSS 4.53962e-17
C21 MX77/M0#g VSS 4.46747e-17
C22 MX84/M0#g VSS 4.98525e-17
C23 SN#17 VSS 6.29266e-17
C24 SN#13 VSS 2.55829e-16
C25 SN#14 VSS 2.77899e-16
C26 SN VSS 3.15128e-16
Rg19 MX69/M0#g SN#13 283.919281 $W=0.15
Rg20 SN#13 MX84/M0#g 470.292603 $W=0.15
Rg21 MX81/M0#g SN#14 283.919281 $W=0.15
Rg22 SN#14 MX77/M0#g 470.292603 $W=0.15
Rf23 SN#14 SN#16 185.917648 $W=0.17
Rf24 SN#16 SN#17 22.211765 $W=0.17
Rf25 SN#13 SN#16 15.000000 $W=0.0289
Re26 SN SN#17 152.103851 $W=0.26
*
*|NET 1 1.11182e-16
*|I (MX63/M0#d MX63/M0 d X 0 0.9805 0.6075)
*|I (MX60/M0#s MX60/M0 s X 0 1.2595 0.6075)
*|S (1 1.1200 0.6050)
C27 1 VSS 1.11182e-16
Rmw27 MX63/M0#d 1 0.001000 $W=1000000
Rmw28 MX60/M0#s 1 0.001000 $W=1000000
*
*|NET 3 1.38651e-16
*|I (MX61/M0#s MX61/M0 s X 0 1.2595 3.0425)
*|I (MM0#d MM0 d X 0 0.9805 3.0425)
*|S (3 1.1200 3.0400)
C28 3 VSS 1.38651e-16
Rmw29 MX61/M0#s 3 0.001000 $W=1000000
Rmw30 MM0#d 3 0.001000 $W=1000000
*
*|NET 5 1.05197e-16
*|I (MX59/M0#d MX59/M0 d X 0 2.1195 0.6075)
*|I (MX57/M0#s MX57/M0 s X 0 1.8405 0.6075)
*|S (5 1.9800 0.6050)
C29 5 VSS 1.05197e-16
Rmw31 MX59/M0#d 5 0.001000 $W=1000000
Rmw32 MX57/M0#s 5 0.001000 $W=1000000
*
*|NET 7 1.34961e-16
*|I (MX78/M0#s MX78/M0 s X 0 1.8405 3.0425)
*|I (MX75/M0#d MX75/M0 d X 0 2.1195 3.0425)
*|S (7 1.9800 3.0400)
C30 7 VSS 1.34961e-16
Rmw33 MX78/M0#s 7 0.001000 $W=1000000
Rmw34 MX75/M0#d 7 0.001000 $W=1000000
*
*|NET 9 1.14013e-16
*|I (MX84/M0#d MX84/M0 d X 0 3.6505 0.6075)
*|I (MX73/M0#s MX73/M0 s X 0 3.9295 0.6075)
*|S (9 3.7900 0.6050)
C31 9 VSS 1.14013e-16
Rmw35 MX84/M0#d 9 0.001000 $W=1000000
Rmw36 MX73/M0#s 9 0.001000 $W=1000000
*
*|NET 11 1.04814e-16
*|I (MX80/M0#s MX80/M0 s X 0 4.9405 0.6075)
*|I (MX71/M0#d MX71/M0 d X 0 5.2195 0.6075)
*|S (11 5.0800 0.6050)
C32 11 VSS 1.04814e-16
Rmw37 MX80/M0#s 11 0.001000 $W=1000000
Rmw38 MX71/M0#d 11 0.001000 $W=1000000
*
*|NET 13 8.39454e-17
*|I (MX77/M0#d MX77/M0 d X 0 5.6495 0.6075)
*|I (MX71/M0#s MX71/M0 s X 0 5.3705 0.6075)
*|S (13 5.5100 0.6050)
C33 13 VSS 8.39454e-17
Rmw39 MX77/M0#d 13 0.001000 $W=1000000
Rmw40 MX71/M0#s 13 0.001000 $W=1000000
*
*|NET 19 2.28057e-15
*|I (MX65/M0#d MX65/M0 d X 0 2.7005 0.6075)
*|I (MX58/M0#g MX58/M0 g X 0 4.4350 0.6075)
*|I (MX57/M0#g MX57/M0 g X 0 1.7650 0.6075)
*|I (MX68/M0#d MX68/M0 d X 0 2.7005 3.0425)
*|I (MX61/M0#g MX61/M0 g X 0 1.3350 3.0425)
*|I (MM1#g MM1 g X 0 4.8650 3.0425)
*|S (19 4.8650 3.0425)
*|S (19#13 1.3350 2.3150)
*|S (19#14 1.7550 1.0950)
*|S (19#15 4.4350 1.0950)
*|S (19#16 4.8650 2.4550)
*|S (19#18 2.8000 2.4550)
*|S (19#20 5.0800 2.4550)
*|S (19#22 5.0800 1.0950)
*|S (19#24 2.8000 1.0950)
C34 MX61/M0#g VSS 4.93879e-17
C35 MX68/M0#d VSS 1.0182e-16
C36 MX57/M0#g VSS 4.02624e-17
C37 MX58/M0#g VSS 4.6611e-17
C38 MX65/M0#d VSS 8.44412e-17
C39 19#24 VSS 4.08355e-16
C40 19#18 VSS 3.176e-16
C41 19#22 VSS 2.89979e-16
C42 19#20 VSS 2.61472e-16
C43 19#13 VSS 2.04427e-16
C44 19#14 VSS 1.43915e-16
C45 19#15 VSS 2.11733e-16
C46 19#16 VSS 6.93817e-17
C47 19 VSS 5.11812e-17
Rg41 MX61/M0#g 19#13 214.929077 $W=0.15
Rg42 MX57/M0#g 19#14 133.085556 $W=0.15
Rg43 MX58/M0#g 19#15 152.809082 $W=0.15
Rg44 19 19#16 169.942413 $W=0.15
Rf45 MX68/M0#d 19#18 58.317612 $W=0.17
Rf46 19#18 19#13 121.695625 $W=0.17
Rf47 19#20 19#16 31.188236 $W=0.17
Rf48 19#22 19#15 48.564705 $W=0.17
Rf49 19#15 19#24 123.105881 $W=0.17
Rf50 19#24 MX65/M0#d 51.894119 $W=0.17
Rf51 19#24 19#14 93.682358 $W=0.17
Re52 19#18 19#24 304.739136 $W=0.23
Re53 19#20 19#22 304.739136 $W=0.23
Rmw54 MM1#g 19 0.001000 $W=1000000
*
*|NET 21 1.56497e-15
*|I (MX80/M0#g MX80/M0 g X 0 4.8650 0.6075)
*|I (MX65/M0#g MX65/M0 g X 0 2.6250 0.6075)
*|I (MX64/M0#d MX64/M0 d X 0 0.3995 0.6075)
*|I (MX60/M0#g MX60/M0 g X 0 1.3350 0.6075)
*|I (MX79/M0#g MX79/M0 g X 0 4.4350 3.0425)
*|I (MX78/M0#g MX78/M0 g X 0 1.7650 3.0425)
*|I (MX68/M0#g MX68/M0 g X 0 2.6250 3.0425)
*|I (MX67/M0#d MX67/M0 d X 0 0.3995 3.0425)
*|S (21#19 1.5500 1.7750)
*|S (21#20 2.7150 1.7750)
*|S (21 4.6500 1.7750)
*|S (21#23 0.2600 2.8950)
*|S (21#24 0.2600 0.6550)
*|S (21#27 2.7150 1.7750)
*|S (21#28 1.5500 1.7750)
*|S (21#29 0.2600 1.7750)
C48 MX68/M0#g VSS 5.18914e-17
C49 MX78/M0#g VSS 5.44247e-17
C50 MX79/M0#g VSS 5.66562e-17
C51 MX60/M0#g VSS 4.06353e-17
C52 MX64/M0#d VSS 4.95981e-17
C53 MX65/M0#g VSS 4.55991e-17
C54 MX80/M0#g VSS 5.31069e-17
C55 21#24 VSS 1.25146e-16
C56 21#29 VSS 1.86546e-16
C57 21#23 VSS 2.0648e-16
C58 21#19 VSS 2.06417e-16
C59 21#20 VSS 2.50219e-16
C60 21 VSS 2.38248e-16
Rg55 MX78/M0#g 21#19 406.895966 $W=0.15
Rg56 21#19 MX60/M0#g 373.267914 $W=0.15
Rg57 MX68/M0#g 21#20 387.607544 $W=0.15
Rg58 21#20 MX65/M0#g 355.474213 $W=0.15
Rg59 MX80/M0#g 21 386.662750 $W=0.15
Rg60 21 MX79/M0#g 418.796082 $W=0.15
Rf61 MX67/M0#d 21#23 25.917646 $W=0.17
Rf62 21#24 MX64/M0#d 18.764706 $W=0.17
Rf63 21 21#27 160.694122 $W=0.17
Rf64 21#27 21#28 87.717644 $W=0.17
Rf65 21#28 21#29 249.129410 $W=0.17
Rf66 21#20 21#27 15.000000 $W=0.0289
Rf67 21#19 21#28 7.500000 $W=0.0578
Re68 21#23 21#29 152.608688 $W=0.23
Re69 21#29 21#24 152.608688 $W=0.23
*
*|NET 25 1.88202e-15
*|I (MX73/M0#d MX73/M0 d X 0 4.0805 0.6075)
*|I (MX59/M0#g MX59/M0 g X 0 2.1950 0.6075)
*|I (MX58/M0#s MX58/M0 s X 0 4.3595 0.6075)
*|I (MX79/M0#s MX79/M0 s X 0 4.3595 3.0425)
*|I (MX75/M0#g MX75/M0 g X 0 2.1950 3.0425)
*|I (MX72/M0#d MX72/M0 d X 0 4.0805 3.0425)
*|I (MX69/M0#d MX69/M0 d X 0 3.4995 3.0425)
*|S (25 2.2350 1.4350)
*|S (25#8 2.4100 1.4350)
*|S (25#10 3.3600 3.2750)
*|S (25#13 4.2200 2.8950)
*|S (25#14 4.2200 0.6550)
C61 MX69/M0#d VSS 7.56288e-17
C62 MX75/M0#g VSS 5.57157e-17
C63 MX59/M0#g VSS 5.1299e-17
C64 MX73/M0#d VSS 8.82795e-17
C65 25#8 VSS 4.0003e-16
C66 25#10 VSS 2.16368e-16
C67 25#14 VSS 4.18214e-16
C68 25#13 VSS 4.96546e-16
C69 25 VSS 7.99381e-17
Rg70 MX75/M0#g 25 492.978882 $W=0.15
Rg71 25 MX59/M0#g 242.338882 $W=0.15
Rf72 25#8 25 28.176472 $W=0.17
Rf73 25#10 MX69/M0#d 32.694118 $W=0.17
Rf74 MX79/M0#s 25#13 177.917648 $W=0.17
Rf75 25#14 MX73/M0#d 170.764709 $W=0.17
Re76 25#10 25#13 152.618759 $W=0.23
Re77 25#13 25#14 1.217391 $W=0.23
Re78 25#14 25#8 153.368759 $W=0.23
Rmw79 MX58/M0#s MX73/M0#d 0.001000 $W=1000000
Rmw80 MX72/M0#d MX79/M0#s 0.001000 $W=1000000
*
*|NET 30 1.41055e-15
*|I (MX73/M0#g MX73/M0 g X 0 4.0050 0.6075)
*|I (MX60/M0#d MX60/M0 d X 0 1.4105 0.6075)
*|I (MX57/M0#d MX57/M0 d X 0 1.6895 0.6075)
*|I (MX78/M0#d MX78/M0 d X 0 1.6895 3.0425)
*|I (MX72/M0#g MX72/M0 g X 0 4.0050 3.0425)
*|I (MX61/M0#d MX61/M0 d X 0 1.4105 3.0425)
*|S (30 4.0050 3.0425)
*|S (30#7 4.0050 2.4550)
*|S (30#9 1.5500 2.8950)
*|S (30#10 1.5500 0.6550)
*|S (30#13 3.7900 2.4550)
C70 MX60/M0#d VSS 8.25971e-17
C71 MX73/M0#g VSS 5.38004e-17
C72 30#10 VSS 2.35794e-16
C73 30#9 VSS 4.8951e-16
C74 30#13 VSS 4.36824e-16
C75 30#7 VSS 6.91118e-17
C76 30 VSS 4.2913e-17
Rg81 30 30#7 169.942413 $W=0.15
Rg82 30#7 MX73/M0#g 574.822449 $W=0.15
Rf83 MX78/M0#d 30#9 177.917648 $W=0.17
Rf84 30#10 MX60/M0#d 18.764706 $W=0.17
Rf85 30#7 30#13 31.188236 $W=0.17
Re86 30#13 30#9 153.386673 $W=0.23
Re87 30#9 30#10 153.217392 $W=0.23
Rmw88 MX57/M0#d MX60/M0#d 0.001000 $W=1000000
Rmw89 MX72/M0#g 30 0.001000 $W=1000000
Rmw90 MX61/M0#d MX78/M0#d 0.001000 $W=1000000
*
*|NET 34 1.38122e-15
*|I (MX82/M0#s MX82/M0 s X 0 6.5995 0.6075)
*|I (MX71/M0#g MX71/M0 g X 0 5.2950 0.6075)
*|I (MX66/M0#g MX66/M0 g X 0 7.1050 0.6075)
*|I (MX56/M0#g MX56/M0 g X 0 8.0550 0.7750)
*|I (MX76/M0#s MX76/M0 s X 0 6.5995 3.0425)
*|I (MX74/M0#g MX74/M0 g X 0 5.2950 3.0425)
*|I (MX70/M0#g MX70/M0 g X 0 7.1050 3.0425)
*|I (MX62/M0#g MX62/M0 g X 0 8.0550 2.7900)
*|S (34 8.0550 2.7900)
*|S (34#19 5.2950 1.7750)
*|S (34#20 7.1450 1.7750)
*|S (34#21 8.0000 1.7750)
*|S (34#23 6.4600 2.8950)
*|S (34#24 6.4600 0.6550)
*|S (34#27 7.1450 1.7750)
*|S (34#28 6.4600 1.7750)
*|S (34#31 6.4600 1.7750)
C77 MX70/M0#g VSS 4.61027e-17
C78 MX74/M0#g VSS 5.13381e-17
C79 MX56/M0#g VSS 6.47989e-17
C80 MX66/M0#g VSS 4.39074e-17
C81 MX71/M0#g VSS 4.97961e-17
C82 MX82/M0#s VSS 6.32952e-17
C83 34#24 VSS 1.06249e-16
C84 34#28 VSS 2.63802e-16
C85 34#23 VSS 1.97025e-16
C86 34#19 VSS 1.84293e-16
C87 34#20 VSS 1.12823e-16
C88 34#21 VSS 1.2133e-16
C89 34 VSS 7.64614e-17
Rg91 MX74/M0#g 34#19 388.449097 $W=0.15
Rg92 34#19 MX71/M0#g 356.315735 $W=0.15
Rg93 MX70/M0#g 34#20 383.725555 $W=0.15
Rg94 34#20 MX66/M0#g 351.592224 $W=0.15
Rg95 34 34#21 308.423401 $W=0.15
Rg96 34#21 MX56/M0#g 303.603394 $W=0.15
Rf97 MX76/M0#s 34#23 25.917646 $W=0.17
Rf98 34#24 MX82/M0#s 18.764706 $W=0.17
Rf99 34#21 34#27 79.376472 $W=0.17
Rf100 34#27 34#28 51.576469 $W=0.17
Rf101 34#28 34#19 102.717644 $W=0.17
Rf102 34#20 34#27 15.000000 $W=0.0289
Re103 34#23 34#31 152.608688 $W=0.23
Re104 34#31 34#24 152.608688 $W=0.23
Re105 34#28 34#31 152.000000 $W=0.0289
Rmw106 MX62/M0#g 34 0.001000 $W=1000000
*
*|NET 37 1.42725e-15
*|I (MX82/M0#g MX82/M0 g X 0 6.6750 0.6075)
*|I (MX80/M0#d MX80/M0 d X 0 4.7895 0.6075)
*|I (MX58/M0#d MX58/M0 d X 0 4.5105 0.6075)
*|I (MX79/M0#d MX79/M0 d X 0 4.5105 3.0425)
*|I (MX76/M0#g MX76/M0 g X 0 6.6750 3.0425)
*|I (MM1#s MM1 s X 0 4.7895 3.0425)
*|S (37 6.6750 3.0425)
*|S (37#7 6.6350 1.4350)
*|S (37#9 4.6500 2.8950)
*|S (37#10 4.6500 0.6550)
*|S (37#13 4.6500 1.4350)
C90 MX80/M0#d VSS 9.00304e-17
C91 MX82/M0#g VSS 4.47221e-17
C92 37#10 VSS 1.36296e-16
C93 37#13 VSS 5.17968e-16
C94 37#9 VSS 3.66675e-16
C95 37#7 VSS 2.15593e-16
C96 37 VSS 5.59644e-17
Rg107 37 37#7 497.702423 $W=0.15
Rg108 37#7 MX82/M0#g 247.062408 $W=0.15
Rf109 MX79/M0#d 37#9 25.917646 $W=0.17
Rf110 37#10 MX80/M0#d 18.764706 $W=0.17
Rf111 37#7 37#13 316.458832 $W=0.17
Re112 37#9 37#13 152.793472 $W=0.23
Re113 37#13 37#10 152.423920 $W=0.23
Rmw114 MX58/M0#d MX80/M0#d 0.001000 $W=1000000
Rmw115 MX76/M0#g 37 0.001000 $W=1000000
Rmw116 MM1#s MX79/M0#d 0.001000 $W=1000000
*
*|NET 41 1.04903e-15
*|I (MX83/M0#g MX83/M0 g X 0 8.4850 0.7750)
*|I (MX66/M0#d MX66/M0 d X 0 7.1805 0.6075)
*|I (MX70/M0#d MX70/M0 d X 0 7.1805 3.0425)
*|I (MX55/M0#g MX55/M0 g X 0 8.4850 2.7900)
*|S (41 8.4850 2.7900)
*|S (41#7 8.5400 1.4350)
*|S (41#9 7.3200 2.8950)
*|S (41#10 7.3200 0.6550)
*|S (41#13 7.3200 1.4350)
C97 MX66/M0#d VSS 6.36511e-17
C98 MX83/M0#g VSS 5.31948e-17
C99 41#10 VSS 1.12775e-16
C100 41#13 VSS 3.29008e-16
C101 41#9 VSS 2.61022e-16
C102 41#7 VSS 1.61377e-16
C103 41 VSS 6.79989e-17
Rg117 41 41#7 411.744843 $W=0.15
Rg118 41#7 MX83/M0#g 188.418182 $W=0.15
Rf119 MX70/M0#d 41#9 25.917646 $W=0.17
Rf120 41#10 MX66/M0#d 18.764706 $W=0.17
Rf121 41#7 41#13 258.858826 $W=0.17
Re122 41#9 41#13 152.793472 $W=0.23
Re123 41#13 41#10 152.423920 $W=0.23
Rmw124 MX55/M0#g 41 0.001000 $W=1000000
*
*|NET 43 4.5072e-16
*|I (MX81/M0#d MX81/M0 d X 0 5.8005 3.0425)
*|I (MX74/M0#d MX74/M0 d X 0 5.2195 3.0425)
*|I (MM1#d MM1 d X 0 4.9405 3.0425)
*|S (43 5.0800 3.0400)
*|S (43#2 5.0800 2.8950)
*|S (43#4 5.9400 2.8950)
C104 43#2 VSS 2.58391e-16
C105 43#4 VSS 1.92328e-16
C106 43 VSS 5.10995e-22
Rf125 43 43#2 25.917646 $W=0.17
Rf126 MX81/M0#d 43#4 25.917646 $W=0.17
Re127 43#4 43#2 304.441528 $W=0.23
Rmw128 MX74/M0#d 43 0.001000 $W=1000000
Rmw129 MM1#d 43 0.001000 $W=1000000
*
*Instance Section
*
MX84/M0	MX84/M0#d	MX84/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX83/M0	MX83/M0#d	MX83/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX82/M0	VSS	MX82/M0#g	MX82/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX80/M0	MX80/M0#d	MX80/M0#g	MX80/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX77/M0	MX77/M0#d	MX77/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX73/M0	MX73/M0#d	MX73/M0#g	MX73/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX71/M0	MX71/M0#d	MX71/M0#g	MX71/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX66/M0	MX66/M0#d	MX66/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX65/M0	MX65/M0#d	MX65/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX64/M0	MX64/M0#d	MX64/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX63/M0	MX63/M0#d	MX63/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX60/M0	MX60/M0#d	MX60/M0#g	MX60/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX59/M0	MX59/M0#d	MX59/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX58/M0	MX58/M0#d	MX58/M0#g	MX58/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX57/M0	MX57/M0#d	MX57/M0#g	MX57/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX56/M0	MX56/M0#d	MX56/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX81/M0	MX81/M0#d	MX81/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX79/M0	MX79/M0#d	MX79/M0#g	MX79/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX78/M0	MX78/M0#d	MX78/M0#g	MX78/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX76/M0	VDD	MX76/M0#g	MX76/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX75/M0	MX75/M0#d	MX75/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX74/M0	MX74/M0#d	MX74/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX72/M0	MX72/M0#d	MX72/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX70/M0	MX70/M0#d	MX70/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX69/M0	MX69/M0#d	MX69/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX68/M0	MX68/M0#d	MX68/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX67/M0	MX67/M0#d	MX67/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX62/M0	MX62/M0#d	MX62/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX61/M0	MX61/M0#d	MX61/M0#g	MX61/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX55/M0	MX55/M0#d	MX55/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	MM0#d	MM0#g	VDD	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM1	MM1#d	MM1#g	MM1#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
